US09193719B2
3-(Benzyloxy)-2,2-dimethylpropanoic acid (1.00 g, 4.80 mmol) was dissolved in DCM (10 mL) at RT. Oxalyl chloride (0.70 mL, 8.00 mmol) and DMF (0.10 mL, 1.29 mmol) were added sequentially and the reaction mixture was stirred at RT for 2 h. In a separate flask, semicarbazide hydrochloride (0.8 g, 7.24 mmol) and NaOH (0.80 g, 20.0 mmol) were dissolved in a solution of dioxane (2.0 mL) and water (10.0 mL). The solution of the acid chloride was added in one portion to the solution of the semicarbazide and the reaction mixture was stirred at RT for 12 h. 2 M NaOH (aq.) (28.0 mL, 56.0 mmol) was then added and the reaction mixture was stirred at 100° C. for 2 h, allowed to cool to RT, and neutralized by the addition of ¾ sat. NH4Cl (aq.) (75 mL). The resultant homogenous solution was sonicated for 12 h and the resultant precipitated solids were collected by filtration and dried in vacuo to afford 3-(1-(benzyloxy)-2-methylpropan-2-yl)-1H-1,2,4-triazol-5(4H)-one (0.57 g, 48.0%) as a white solid. 1H NMR (400 MHz, DMSO-d6): δ 11.22 (s, 1H), 11.09 (s, 1H), 7.34-7.23 (m, 5H), 4.44 (s, 2H), 3.39 (s, 2H), 1.16 (s, 5H).

reactant | 3-(Benzyloxy)-2,2-dimethylpropanoic acid | 4.80 mmol, 1.00 g | C(C1=CC=CC=C1)OCC(C(=O)O)(C)C | C12H16O3
reactant | Oxalyl chloride | 8.00 mmol, 0.70 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMF | 1.29 mmol, 0.10 mL | CN(C)C=O | C3H7NO
reactant | semicarbazide hydrochloride | 7.24 mmol, 0.8 g | Cl.NNC(=O)N
reactant | NaOH | 20.0 mmol, 0.80 g | [OH-].[Na+]
reactant | semicarbazide | NNC(=O)N | CH5N3O
reactant | NaOH | 56.0 mmol, 2 M, 28.0 mL | [OH-].[Na+]
reactant | NH4Cl | 75 mL | [NH4+].[Cl-]
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | water | 10.0 mL | O | H2O
solvent | dioxane | 2.0 mL | O1CCOCC1 | C4H8O2
product | 3-(1-(benzyloxy)-2-methylpropan-2-yl)-1H-1,2,4-triazol-5(4H)-one | 0.57 g, 48.0% | C(C1=CC=CC=C1)OCC(C)(C)C1=NNC(N1)=O | C13H17N3O2
